* smoke_bias -- harness acceptance testbench (NOT a bandgap)
*
* Netlist FRAGMENT. The harness supplies the title, .include of the gf180mcu
* models, the corner .lib sections, .temp, the .control block and .end.
* Parameters provided by the harness: vdd_val, vdd_nom, temp_c.
*
* Three deliberately independent branches, each proving a different piece of
* the harness is wired up:
*
*   1. ideal resistive divider  -> parameter plumbing; must be PVT-invariant
*   2. PDK poly resistor + diode-connected nfet_03v3 -> MOS and res corners
*   3. diode-connected vertical NPN at 10 uA -> BJT corner and temperature
*
* Branch 3 is the temperature probe: Vbe is strongly CTAT (~ -1.7 mV/degC),
* so a flat vbe across the grid means .temp never took effect.

vsup vdd 0 dc {vdd_val}

* --- 1. ideal divider: exactly vdd/2 at every corner, temperature and supply
Rtop vdd ndiv 100k
Rbot ndiv 0   100k

* --- 2. PDK unsalicided p+ poly resistor into a diode-connected 3.3 V nfet
XR1 vdd nbias 0    ppolyf_u r_width=1u r_length=100u
XM1 nbias nbias 0 0 nfet_03v3 w=10u l=1u

* --- 3. diode-connected vertical NPN, forced 10 uA (c b e s)
Iq 0 nbe dc 10u
XQ1 nbe nbe 0 0 npn_10p00x10p00
